US06972294B1
3-{4-[3,3-Bis-(3-methyl-thiophen-2-yl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester
Reaction of 3,3-bis-(3-methylthiophen-2-yl)-prop-2-en-1-ol (1.0 mg, 3.99 mmol), tributylphosphine (0.91 g, 4.5 mmol), 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (1.07 g, 4.5 mmol) and azodicarboxylic dipiperidide (1.14 g, 4.5 mmol) in an identical manner to example 3 gave the title compound (680 mg, 36%).

reactant | 3,3-bis-(3-methylthiophen-2-yl)-prop-2-en-1-ol | 3.99 mmol, 1.0 mg | CC1=C(SC=C1)C(=CCO)C=1SC=CC1C | C13H14OS2
reactant | tributylphosphine | 4.5 mmol, 0.91 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 4.5 mmol, 1.07 g | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
product | 3-{4-[3,3-Bis-(3-methyl-thiophen-2-yl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 680 mg, 36% | C(C)OC(C(CC1=CC=C(C=C1)OCC=C(C=1SC=CC1C)C=1SC=CC1C)OCC)=O | C26H30O4S2
